US03962227
7-Phenoxyacetamido-3-chloro-3-cephem-4-carboxylic acid.
Following the chlorination procedure of Example 19 p-nitrobenzyl 7-phenoxyacetamido-3-chloro-3-cephem-4-carboxylate was prepared with phosphorus trichloride. The p-nitrobenzyl ester group was removed by the acidic hydrogenolysis procedure described by Example 18 to provide the 3-chlorocephalosporanic acid antibiotic compound.

reactant | p-nitrobenzyl 7-phenoxyacetamido-3-chloro-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H18ClN3O7S
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
product | 7-Phenoxyacetamido-3-chloro-3-cephem-4-carboxylic acid | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C15H13ClN2O5S
